US06713471B1
To a suspension of 9-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one (4:1 regioisomers, 500 mg, 2.6 mmol) in toluene (10 mL) was added dropwise over 3 min Red-Al (65% w. in toluene, 1.6 mL). This solution was heated at 85° C. for 1.5 h. After it was allowed to cool to 23° C., aqueous 1N NaOH solution (2 mL) was added cautiously. Then, CHCl3 (50 mL) and aqueous saturated Rochelle salt solution (50 mL) were added sequentially. This two-phase mixture was stirred vigorously at 23° C. for 1 h. The layers were separated, and the aqueous layer was back-extracted with CHCl3 (2×50 mL). The extracts were combined, dried (MgSO4) and concentrated in vacuo. to give 9-methyl-2,3,4,5-tetrahydro-1,5-benzothiazepine (500 mg, >100%) as a yellow oil. 1H NMR (CDCl3, 300 MHz): δ6.92 (t, 1H, J=7.3 Hz), 6.75 (d, 1H, J=7.4 Hz), 6.58 (d, 1H, J=8.1 Hz), 3.34 (t, 1H, J=5.2 Hz), 2.92 (t, 2H, J=5.8 Hz), 2.48 (s, 3H), 2.25 (s, 3H), 2.04 (quintet, 2H, J=3.0 Hz) ppm.

reactant | 9-methyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 2.6 mmol, 500 mg | CC1=CC=CC=2NC(CCSC21)=O | C10H11NOS
reactant | Red-Al | 1.6 mL | COCCO[AlH2-]OCCOC.[Na+]
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
reactant | Rochelle salt | 50 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 9-methyl-2,3,4,5-tetrahydro-1,5-benzothiazepine | 500 mg, >100% | CC1=CC=CC=2NCCCSC21 | C10H13NS
